US08258135B2
To a solution of LDA (1.8 M in THF/heptane/ethylbenzene, 64.8 mL, 117 mmol) in THF (200 mL) at −78° C. was added 2,3-lutidine (10.6 mL, 93.3 mmol) in THF (62 mL) dropwise over 10 min. After stirring the mixture an additional 40 min at −78° C., diethyl ethoxymethylenemalonate (21.7 mL, 107 mmol) in THF (30 mL) was added slowly over 15 min. The mixture was warmed slowly to rt over 2.5 h. The resulting solution was quenched with saturated aqueous NH4Cl and extracted with CH2Cl2 (3×). The combined extracts were dried (Na2SO4) and concentrated. The intermediate was dissolved in o-xylene (93 mL) and heated to reflux for 16 h. After cooling to rt, the mixture was concentrated. Purification by silica gel chromatography eluting with 0-5% MeOH:CH2Cl2 afforded ethyl 9-methyl-4-oxo-4H-quinolizine-3-carboxylate as a yellow solid.

reactant | LDA | 117 mmol, 1.8 M, 64.8 mL | [Li+].CC(C)[N-]C(C)C
reactant | 2,3-lutidine | 93.3 mmol, 10.6 mL | N1=C(C(=CC=C1)C)C | C7H9N
reactant | diethyl ethoxymethylenemalonate | 107 mmol, 21.7 mL | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 62 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | ethyl 9-methyl-4-oxo-4H-quinolizine-3-carboxylate | CC1=CC=CN2C(C(=CC=C12)C(=O)OCC)=O | C13H13NO3
